US07230031B2
O-(5-methyl-7-nitroindan-4-yl) dimethylthiocarbamate
5-Methyl-7-nitroindan-4-ol (5.0 g) was dissolved in N,N-dimethylformamide (50 mL). After adding triethylenediamine (5.8 g) and dimethylthiocarbamoyl chloride (4.8 g) with stirring at room temperature, the mixture was stirred at 75° C. for 5 hours. The reaction mixture was cooled to room temperature. Water (100 mL) was added to the reaction mixture. The insoluble material was collected by filtration, washed with diethyl ether and dried to give the title compound (5.80 g).

reactant | 5-Methyl-7-nitroindan-4-ol | 5.0 g | CC1=C(C=2CCCC2C(=C1)[N+](=O)[O-])O | C10H11NO3
reactant | triethylenediamine | 5.8 g | C1CN2CCN1CC2 | C6H12N2
reactant | dimethylthiocarbamoyl chloride | 4.8 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | Water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | O-(5-methyl-7-nitroindan-4-yl) dimethylthiocarbamate | 5.80 g | CN(C(OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-])=S)C | C13H16N2O3S
